* Basic voltage divider op

Vs     n1   0  10;  10 V
R1     n1  n2  10K; 10 Ohm
R2     n2   0  10K; 10 Ohm

* DC analysis / Operational Point
.op

.end
