* Basic voltage divider trans

*               SIN(Vo Va freq td damp)
*Vs     n1   0  SIN(0  5  1    0  0.25)

*               PULSE(V1 V2 td tr tf PW  T)
*Vs     n1   0  PULSE(-1 1  0  1n 1n  2  4)

*              PWL(t1,v1 t2,v2, t3,v3 ... tn,vn)
Vs     n1   0  PWL(0,0 2,1 4,0 6,-1 8,0 10,1 12,0 14,-1 16,0 18,1 20,0 )

R1     n1  n2  10; 10 Ohm
R2     n2   0  10; 10 Ohm

* Transient command
.trans 0 20 0 20m

.end
